US05859007
To a stirring solution of 8.0 g (49.6 mmol) of 4-trifluoromethylaniline in 80 mL of 1,2-dichloroethane at RT is added 4.0 mL (54.6 mmol, 1.1 equiv) of acetone, 5 drops of glacial acetic acid, and 13.7 g (64.5 mmol, 1.3 equiv) of sodium triacetoxyborohydride. The solution is stirred at RT for 72 h, cooled to 0° C., and then quenched by addition of H2O (200 mL). The organic layer is separated, washed with brine (1×200 mL), dried (MgSO4) and the solvents removed in vacuo to afford 10.1 g of crude (4-trifluoromethyl-phenyl)-isopropyl amine. A solution of 2.0 g (9.5 mmol) of this material in 50 mL of DCM is cooled to 0° C. and 1.5 mL (10.8 mmol, 1.5 equiv) of triethylamine is added, followed by dropwise addition of 0.90 mL (10.3 mmol, 1.05 equiv) of bromoacetyl bromide. The solution is stirred at RT for 4 h and then poured into Et2O (200 mL). The organics were washed with 1N HCl (2×50 mL), brine (1×50 mL), dried (MgSO4) and the solvents removed in vacuo. Purification of the material by silica gel flash column chromatography using EtOAc/hexane 1/10 as eluent afforded 2.09 g of the title compound: 1HNMR (CDCl3, 300 MHz) δ7.78 (d, 2H, J=8.5), 7.40 (d, 2H, J=8.5), 5.01 (m, 1H), 3.51 (s, 2H), 1.08 (d, 6H, J=6.9).

reactant | 4-trifluoromethylaniline | 49.6 mmol, 8.0 g | FC(C1=CC=C(N)C=C1)(F)F | C7H6F3N
reactant | acetone | 54.6 mmol, 4.0 mL, 1.1 equiv | CC(=O)C | C3H6O
reactant | sodium triacetoxyborohydride | 64.5 mmol, 13.7 g, 1.3 equiv | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 80 mL | ClCCCl | C2H4Cl2
catalyst | acetic acid | 5 drops | C(C)(=O)O | C2H4O2
product | (4-trifluoromethyl-phenyl)-isopropyl amine | 10.1 g | FC(C1=CC=C(C=C1)NC(C)C)(F)F | C10H12F3N
